US03957771
To a suspension of 14.9 g of penicillin-G-potassium (= 40 mmols) in 60 ml of absolute methylene chloride 10 ml of N,N-dimethylaniline and 8.42 g (= 40 mmols) of methyl-n-octylphosphinic acid chloride were added successively while stirring. After an hour at 0°C the reaction mixture was cooled to -25°C and 9.0 g (= 43 mmols) of phosphorus pentachloride were introduced. After an hour at -25°C, 60 ml of n-butanol and 2 ml of N,N-dimethylaniline were introduced and by after-stirring for an hour at -25°C the iminoether was formed. Then, hydrolysis followed in the manner described in Example 1. 7.47 g (= 88.5 % of the theory) of 6-aminopenicillanic acid having a melting point of 195°C (decomposition) were isolated in the form of colorless crystals, the identity of which was examined in an analogous manner as described in Example 1.

reactant | penicillin-G potassium | 40 mmols, 14.9 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C.[K]
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | methyl-n-octylphosphinic acid chloride | 40 mmols, 8.42 g | CP(=O)(CCCCCCCC)Cl | C9H20ClOP
reactant | phosphorus pentachloride | 43 mmols, 9.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N,N-dimethylaniline | 2 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | iminoether | N=O | HNO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
product | 6-aminopenicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
